### PR TITLE
feat(SetTheory/Ordinal): classify exponential principal ordinals

### PR DESCRIPTION
**Pull request by Jun2028**
Complete `` TODO: Prove that the exponential principal ordinals are `0`, `1`, `2`, `ω`, or `ε_ x` `` in [Mathlib/SetTheory/Ordinal/Principal.lean](https://github.com/leanprover-community/mathlib4/compare/master...Jun2028:mathlib4:feat/exponential-principal-classification?expand=1#diff-c700a68af59d576bafeeeac5211181f9ce129bdead444df6c9747344817103bd)

By the way, the original TODO was wrong because `1` is not an exponential principal ordinal (it requires $0^0=1<1$ which is false).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Ordinal/Principal.lean [hunk 1]
```diff
@@ -508,7 +504,35 @@ theorem mul_eq_opow_log_succ (ha : a ≠ 0) (hb : IsPrincipal (· * ·) b) (hb
...
+  · exact (succ_le_of_lt (lt_two_iff.2 ha₁)).trans_lt ho₂
+  · exact (succ_le_of_lt (left_lt_opow ha₁ one_lt_two)).trans_lt (ho ha ho₂)
+
+/-- Above `ω`, closure under exponentiation is equivalent to being a fixed point of `ω ^ ·`. -/
+theorem isPrincipal_opow_iff_omega0_opow_eq (hoω : ω < o) :
+    IsPrincipal (· ^ ·) o ↔ ω ^ o = o := by
+  refine ⟨fun ho ↦ ?_, fun ho ↦ ?_⟩
+  · exact op_eq_self_of_isPrincipal hoω (isNormal_opow one_lt_omega0) ho
+      (isSuccLimit_of_isPrincipal_opow ((natCast_lt_omega0 2).trans hoω) ho)
+  · have hom : IsPrincipal (· * ·) o := by
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Principal.lean:527]: I think this (any exponential principal > 1 is multiplicative principal) is a nice lemma to have separately.

File: Mathlib/SetTheory/Ordinal/Principal.lean [hunk 2]
```diff
@@ -517,6 +541,26 @@ theorem isPrincipal_opow_omega0 : IsPrincipal (· ^ ·) ω := fun a b ha hb =>
...
+The ordinal `1` is excluded because `0 ^ 0 = 1`. -/
+theorem isPrincipal_opow_iff_zero_or_two_or_omega0_or_omega0_opow_eq :
+    IsPrincipal (· ^ ·) o ↔ o = 0 ∨ o = 2 ∨ o = ω ∨ ω ^ o = o := by
+  refine ⟨fun ho ↦ ?_, ?_⟩
+  · simp only [or_iff_not_imp_left]
+    refine fun ho₀ ho₂ (hoω : o ≠ ω) ↦ ?_
+    rcases lt_or_ge 2 o with h₂ | h₂
+    · have hoω' := omega0_le_of_isSuccLimit (isSuccLimit_of_isPrincipal_opow h₂ ho)
+      exact (isPrincipal_opow_iff_omega0_opow_eq (lt_of_le_of_ne hoω' hoω.symm)).1 ho
+    · rcases le_two_iff.1 h₂ with (rfl | rfl | rfl) <;> simp_all
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Principal.lean:554]: Pretty small golf, mostly just a way to avoid calling `simp_all` on three separate goals.
```suggestion
    refine fun ho₀ ho₂ hoω ↦ ?_
    rcases gt_or_lt_of_ne ho₂ with h₂ | h₂
    · have hoω' := omega0_le_of_isSuccLimit (isSuccLimit_of_isPrincipal_opow h₂ ho)
      exact (isPrincipal_opow_iff_omega0_opow_eq (hoω'.lt_of_ne' hoω)).1 ho
    · rw [lt_two_iff, le_one_iff] at h₂
      simp_all
```

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 3]
```diff
@@ -560,6 +560,12 @@ theorem epsilon_le_veblen_of_ne_zero (ha : a ≠ 0) : ε_ b ≤ veblen a b :=
 theorem omega0_opow_epsilon (o : Ordinal) : ω ^ ε_ o = ε_ o := by
   rw [epsilon_eq_deriv, deriv_fp (isNormal_opow one_lt_omega0)]
 
+/-- The exponential principal ordinals are `0`, `2`, `ω`, and the epsilon numbers. -/
+theorem isPrincipal_opow_iff_zero_or_two_or_omega0_or_epsilon :
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:564]: I think `isPrincipal_opow_epsilon` would be a nice corollary to have.

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 4]
```diff
@@ -560,6 +560,12 @@ theorem epsilon_le_veblen_of_ne_zero (ha : a ≠ 0) : ε_ b ≤ veblen a b :=
...
+    IsPrincipal (· ^ ·) o ↔ o = 0 ∨ o = 2 ∨ o = ω ∨ o ∈ range epsilon := by
+  rw [isPrincipal_opow_iff_zero_or_two_or_omega0_or_omega0_opow_eq]
+  simp [epsilon, mem_range_veblen one_ne_zero]
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:567]: I think this makes it a bit clearer what's happening.
```suggestion
  rw [isPrincipal_opow_iff_zero_or_two_or_omega0_or_omega0_opow_eq, mem_range_veblen one_ne_zero]
  simp
```

**Review by vihdzp — COMMENTED** [review]
Really nice proofs! I've left a few small suggestions.

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 5]
```diff
@@ -574,6 +580,10 @@ theorem omega0_lt_epsilon (o : Ordinal) : ω < ε_ o := by
   apply lt_of_lt_of_le _ <| (veblen_right_strictMono _).monotone zero_le
   simpa using iterate_omega0_opow_lt_epsilon_zero 2
 
+/-- Epsilon numbers are exponentially principal. -/
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:583]: Nit: I'm not a fan of these comments that just restate the type signature.

**Review by vihdzp — APPROVED** [review]
Looks good to me!

**Comment by vihdzp** [comment]
By the way, if you want to do more work in this direction. I think it'd be nice to prove that the `veblen`-principal ordinals are exactly `0` and the gamma numbers.
